US04101548
A solution of potassium hydroxide (3.30 g.) in water (7 ml.) was added to a solution of ethyl 1,2,3-thiadiazole-5-carboxylate (8.00 g.) in ethanol (25 ml.). The mixture was stirred at 23° C. for 2 hours, and then was worked up to yield potassium 1,2,3-thiadiazole-5-carboxylate. A suspension of this salt (3.00 g.) in toluene (25 ml.) was treated at 0° C. with oxalyl chloride (1.6 ml.), stirred at 0° C. for 1 hour, and then was worked up to yield 1,2,3-thiadiazole-5-carbonyl chloride.

reactant | potassium hydroxide | 3.30 g | [OH-].[K+]
reactant | ethyl 1,2,3-thiadiazole-5-carboxylate | 8.00 g | S1N=NC=C1C(=O)OCC | C5H6N2O2S
solvent | water | 7 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | potassium 1,2,3-thiadiazole-5-carboxylate | S1N=NC=C1C(=O)[O-].[K+] | InChI=1S/C3H2N2O2S.K/c6-3(7)2-1-4-5-8-2;/h1H,(H,6,7);/q;+1/p-1
